US04515966
PREPARATION OF 4,5-DIMETHYL-2-[2-(METHYLTHIO)ETHYL]-1,3-DIOXOLANE
Into a 100 ml reaction flask equipped with spin bar, reflux condenser, heating mantle and hot plate with magnetic stirring apparatus is placed 5 ml cyclohexane, 0.2 grams para-toluenesulfonic acid and 3.5 grams (0.04 moles) of 2,3-butanediol. Over a period of 30 minutes, 4.1 grams (0.04 moles) of 3-methylthiopropionaldehyde is added to the reaction mass. The reaction mass is then heated to reflux and refluxed for a period of 7 hours during which water of reaction is removed.

reactant | cyclohexane | 5 ml | C1CCCCC1 | C6H12
reactant | para-toluenesulfonic acid | 0.2 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,3-butanediol | 0.04 moles, 3.5 grams | CC(C(C)O)O | C4H10O2
reactant | 3-methylthiopropionaldehyde | 0.04 moles, 4.1 grams | CCCC=S | C4H8S
solvent | water | O | H2O
product | 4,5-DIMETHYL-2-[2-(METHYLTHIO)ETHYL]-1,3-DIOXOLANE | CC1OC(OC1C)CCSC | C8H16O2S
